US05736548
3-(Carboxymethoxy)benzaldehyde (1.63 g, 9.05 mmol) was dissolved in p-dioxane (20 ml) and cooled in an ice bath and then N,N'-carbonyldiimidazole (1.9 g) was added in one portion. The reaction mixture was stirred for 30 minutes, then morpholine (0.8 ml) was added and the mixture was warmed to room temperature and stirred until the reaction was complete. The solvent was removed in vacuo, the residue was partitioned between CHCl3 (100 ml) and 2N HCl (75 ml), the layers were separated, and the aqueous layer was extracted with CHCl3 (2×75 ml). The organic layers were combined, dried over MgSO4 and stripped to afford an oil which was combined with the product from a similar experimental run and purified by column chromatography on silica gel eluting with chloroform to afford 2.1 g of 3-[4-morpholinylcarbonylmethoxy]benzaldehyde.

reactant | 3-(Carboxymethoxy)benzaldehyde | 9.05 mmol, 1.63 g | C(=O)(O)COC=1C=C(C=O)C=CC1 | C9H8O4
reactant | morpholine | 0.8 ml | N1CCOCC1 | C4H9NO
solvent | p-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3-[4-morpholinylcarbonylmethoxy]benzaldehyde | 2.1 g | N1(CCOCC1)C(=O)COC=1C=C(C=O)C=CC1 | C13H15NO4
